US07232926B2
N-(2-Chloro-2-propen-1-yl)-N-(n-propyl)sulfamoyl chloride
35.7 g (0.256 mol) of sulfur trioxide as a 57.4% solution in 1,2-dichloroethane were added with stirring at from 0 to 5° C. within 15 min to a solution of 43.7 g (0.469 mol) of α-picoline in 200 ml of 1,2-dichloroethane, followed by washing with 40 ml of 1,2-dichloroethane and stirring for 15 min-until the temperature rose to 20° C. 28.5 g (0.192 mol) of 90% pure N-(2-chloro-2-propen-1-yl)-N-propylamine were then added within 15 min with stirring and external cooling at from 20 to 30° C., followed by washing with 40 ml of 1,2-dichloroethane and stirring at 50° C. for 15 min. After cooling to 23° C., 39.3 g (0.256 mol) of phosphorus oxychloride were added with stirring within 15 min, followed by washing with 120 ml of 1,2-dichloroethane and heating to 70° C. After stirring for 1 h, the reaction mixture was cooled and concentrated under reduced pressure, and the residue obtained was stirred with 100 ml of methyl tert-butyl ether each time. The methyl tert-butyl ether phases were decanted off and concentrated. The residue was distilled. 42.5 g (90.5% of theory) of the title compound having a boiling point of 67-71° C./0.4 mbar were obtained.

reactant | sulfur trioxide | 0.256 mol, 35.7 g | S(=O)(=O)=O | O3S
reactant | α-picoline | 0.469 mol, 43.7 g | N1=C(C=CC=C1)C | C6H7N
reactant | N-(2-chloro-2-propen-1-yl)-N-propylamine | 0.192 mol, 28.5 g | ClC(CNCCC)=C | C6H12ClN
reactant | phosphorus oxychloride | 0.256 mol, 39.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
solvent | methyl tert-butyl ether | 100 ml | C(C)(C)(C)OC | C5H12O
product | N-(2-Chloro-2-propen-1-yl)-N-(n-propyl)sulfamoyl chloride | ClC(CN(S(=O)(=O)Cl)CCC)=C | C6H11Cl2NO2S
